US05093364
4-Fluoroanthranilic acid (2 g) was added portionwise to trifluoroacetic anhydride (16 ml). After stirring and refluxing for 4 hours, the mixture was cooled and excess trifluoroacetic anhydride was removed by evaporation under reduced pressure. The resultant light brown solid was stirred at room temperature with a mixture of tetrahydrofuran (50 ml) and water (10 ml) for 18 hours. Solvent was removed by evaporation under reduced pressure to give a white solid. Recrystallisation from toluene gave 4-fluoro-N-(trifluoroacetyl)anthranilic acid, mp 166°-167.5°. (Compound 17).

reactant | 4-Fluoroanthranilic acid | 2 g | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
reactant | trifluoroacetic anhydride | 16 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-fluoro-N-(trifluoroacetyl)anthranilic acid | FC=1C=C(C(C(=O)O)=CC1)NC(C(F)(F)F)=O | C9H5F4NO3
